US04078076
A solution of 44.6 g of 4-(p-hydroxyphenyl)-tetrahydropyran in 50 ml of ethanol was added at 20° C to a mixture of 5.75 g of sodium in 250 ml of ethanol and the mixture was stirred for one hour and then was cooled to 0° C. 55.1 ml of ethyl 2-bromo-butyrate were added to the reaction mixture which was then allowed to return to 20° C and was refluxed overnight. The ethanol was evaporated and the residue was taken up in 50 ml of 1N sodium hydroxide and 250 ml of methylene chloride. The aqueous phase was decanted and was extracted again with methylene chloride. The organic phases were dried and evaporated to dryness to obtain 56.3 g of raw product which was rectified under reduced pressure to obtain 40 g of ethyl 2-[p-(4-tetrahydropyranyl)-phenoxy]-butanoate with a boiling point of 143° C. at 0.3 mm Hg.

reactant | 4-(p-hydroxyphenyl)-tetrahydropyran | 44.6 g | OC1=CC=C(C=C1)C1CCOCC1 | C11H14O2
reactant | sodium | 5.75 g | [Na] | Na
reactant | ethyl 2-bromo-butyrate | 55.1 ml | BrC(C(=O)OCC)CC | C6H11BrO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | ethyl 2-[p-(4-tetrahydropyranyl)-phenoxy]-butanoate | 40 g | O1CCC(CC1)C1=CC=C(OC(C(=O)OCC)CC)C=C1 | C17H24O4
